Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
s/p stabbing x 2
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ Critical ___ is a ___ year old right hand dominant
male who was involved in an altercation this evening was stabbed
in his left forearm, back, and chest. Patient presented to an
outside hospital where his left arm was washed out, closed, and 
sent to
___ ED for further care. He has a small pneumothorax, and now
complains of left ring and small finger parathesias and 
weakness.

 
Past Medical History:
PMH:
asthma
Barretts Esophagus 

PSH: ORIF R elbow
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION EXAM
Gen: well appearing, no acute distress. Alert and oriented x 3
CV: RRR
Lungs: breathing room air comfortably.
Right upper extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis 
- Soft, non-tender arm and forearm
- Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse
Left upper extremity:
- approximately 6cm wound closed with nylon just volar to ulnar  

- Soft, non-tender arm and forearm
- patient able to fully flex and extend thumb, index, middle
finger
- able to fire EDC, FDS, FDP of ring and small finger
- sensation intact to light touch thumb, index, middle finger.
Diminished sensation in ring. No sensation to pinprick in small
finger. 
 two point discrimination exam unreliable
- good cap refill in all fingers
- 2+ radial pulse
  

DISCHARGE EXAM
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Slight wheezing b/l, otherwise clear, equal chest rise and 
breath sounds, no increased work of breathing  
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses  
DRE: normal tone, no gross or occult blood  
Ext: Left arm- 6cm wound closed c/d/i, sensation and motor 
intact, good cap refill.
 
Pertinent Results:
___ 04:20AM BLOOD WBC-11.1* RBC-3.32* Hgb-10.8* Hct-33.4* 
MCV-101* MCH-32.5* MCHC-32.3 RDW-12.7 RDWSD-46.7* Plt ___
___ 04:36AM BLOOD Glucose-97 Lactate-2.6* Na-144 K-3.7 
Cl-115*
___ 04:36AM BLOOD pO2-123* pCO2-29* pH-7.41 calTCO2-19* 
Base XS--4

CXR ___ pm: Minimal left upper pneumothorax remaining.

CT ___ am: 
 1. Small left pneumothorax.
2. Gas within the left infraspinatus muscle reflective of the 
stab wound site.
 
Xray Left hand ___ am:
No acute fracture or dislocation is noted, though evaluations of 
the hand is limited due to positioning and overlying support 
monitor.  No radiopaque
foreign bodies or concerning focal sclerotic or lytic osseous 
lesion is seen.

Xray Left arm ___ am: No acute fracture or dislocation is noted, 
though evaluations of the hand is limited due to positioning and 
overlying support monitor.  No radiopaque foreign bodies or 
concerning focal sclerotic or lytic osseous lesion is seen.
 
Brief Hospital Course:
The patient was transferred from an outside hospital and 
admitted for observation by the trauma surgery service after 
being stabbed twice. Stab wounds included: left forearm and left 
posterior flank. At the outside hospital, the left forearm wound 
was closed prior to transfer. The hand surgery team consulted 
and recommended elevation, LUE sling for comfot, and outpatient 
follow up with Dr. ___ on ___.
The patient was also found to have a small left apical 
pneumothorax on chest imaging but had no respiratory symptoms. 
He was hemodynamically stable throughout his stay and voided 
appropriately. No intervention was performed for the small 
pneumothorax, and repeat CXR later in the day showed stable 
findings. The patient was discharged home the evening of 
admission in stable condition. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO DAILY:PRN constipation  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation  
5.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stab wound to left forearm
stab wound to left posterior chest with small stable apical 
pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
being stabbed twice. You had a small lung collapse on the left, 
but this was found to be stable and you have been breathing 
better. You also had a stab wound to the left forearm which was 
closed before you were transferred to our hospital and you will 
be followed by a hand surgeon as an outpatient. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please keep the left hand and arm extremely elevated as much as 
possible.
Please keep the splint on the left arm for comfort.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___